US07273879B2
Into 12 ml of chloroform was dissolved 1.39 g of 5-benzyloxy-3-methylthio-1,2,4-thiadiazole, and metachloroperbenzoic acid (>70%) was slowly added to the mixture under ice-cooling. After stirring for 1 hour, the compound of low-polarity from the reaction mixture was detected by thin layer chromatography. The reaction mixture was poured into a saturated sodium sulfite aqueous solution, and separated. The organic layer was washed with sodium hydrogen carbonate aqueous solution, dried over anhydrous sodium sulfate, concentrated to give 1.4 g of 5-benzyloxy-3-methylsulfinyl-1,2,4-thiadiazole.

reactant | 5-benzyloxy-3-methylthio-1,2,4-thiadiazole | 1.39 g | C(C1=CC=CC=C1)OC1=NC(=NS1)SC | C10H10N2OS2
reactant | metachloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 12 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-benzyloxy-3-methylsulfinyl-1,2,4-thiadiazole | 1.4 g | C(C1=CC=CC=C1)OC1=NC(=NS1)S(=O)C | C10H10N2O2S2
